US06956050B2
STEP 1. tert-butyl 2-{4-[4-(4-cyanophenyl)-2-ethyl-1H-imidazol-1-yl]phenyl}ethylcarbamate
The title compound was prepared according to the procedure described in step 4 of Example 26 from tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate and 4-(bromoacetyl)benzonitrile: MS (ESI) m/z 417 [M+H]+.

reactant | tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate | C(CC)(=N)NC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C16H25N3O2
reactant | 4-(bromoacetyl)benzonitrile | BrCC(=O)C1=CC=C(C#N)C=C1 | C9H6BrNO
product | tert-butyl 2-{4-[4-(4-cyanophenyl)-2-ethyl-1H-imidazol-1-yl]phenyl}ethylcarbamate | C(#N)C1=CC=C(C=C1)C=1N=C(N(C1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O)CC | C25H28N4O2
